US05495023
To a 28 wt % solution of sodium methoxide in methanol (112.6 g) at 10° C. were added dropwise diethyl phosphonoacetic acid ethyl ester (110.75 g) and (E)-2-methyl-2-hexenal (50.36 g) successively under a nitrogen atmosphere. The reaction mixture was stirred at room temperature for 4 hours, poured into chilled water and extracted with dichloromethane. The extract was washed with brine, dried over anhydrous magnesium sulfate, and evaporated to give 74.88 g of crude methyl (E,E)-4-methyl-2,4-octadienoate as an oil. This oil was used in the next reaction without further purification.

reactant | sodium methoxide | C[O-].[Na+]
reactant | diethyl phosphonoacetic acid ethyl ester | 110.75 g | C(C)OC(C(P(=O)(O)O)(CC)CC)=O | C8H17O5P
reactant | (E)-2-methyl-2-hexenal | 50.36 g | C/C(/C=O)=C\CCC | C7H12O
reactant | water | O | H2O
solvent | methanol | 112.6 g | CO | CH4O
product | methyl (E,E)-4-methyl-2,4-octadienoate | 74.88 g | C/C(/C=C/C(=O)OC)=C\CCC | C10H16O2
